US08609687B2
(R)-1-(4-(8-(4-methoxyphenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino)-1H-pyrazol-1-yl)propan-2-ol
A suspension of 2-iodo-8-(4-methoxyphenyl)-[1,2,4]triazolo[1,5-a]pyridine (53.6 mg, 0.153 mmol, 1 equiv), (R)-1-(4-amino-1H-pyrazol-1-yl)propan-2-ol (27 mg, 0.19 mmol, 1.2 equiv), sodium tert-butoxide (43.1 mg, 0.448 mmol, 2.94 equiv), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (15.2 mg, 0.0263 mmol, 0.172 equiv) and tris(dibenzylideneacetone)dipalladium (0) (10.5 mg, 0.0115 mmol, 0.0751 equiv) in dioxane (2 mL) was heated at 170° C. in the microwave for 15 min. The reaction mixture was partitioned between saturated aqueous sodium chloride solution (5 mL) and ethyl acetate (5 mL). The organic was separated, and the aqueous layer was extracted with ethyl acetate (2×5 mL). The collected organic was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Purification by flash column chromatography (5% methanol in dichloromethane) afforded product as a white solid (42.4 mg, 73% yield). 1H NMR (400 MHz, DMSO-d6), δ: 9.32 (s, 1 H, NH), 8.64 (dd, J=6.6, 0.9 Hz, 1 H), 8.13 (dd, J=8.8 Hz, 2 H), 7.81 (s, 1 H), 7.74 (dd, J=7.5, 0.9 Hz, 1 H), 7.47 (s, 1 H), 7.08 (d, J=8.9 Hz, 2 H), 7.03 (t, J=7.0 Hz, 1 H), 4.92 (d, J=4.7 Hz, 1 H, OH), 3.96 (m, 3 H), 3.83 (s, 3 H), 1.04 (d, J=5.8 Hz, 3 H).

reactant | 2-iodo-8-(4-methoxyphenyl)-[1,2,4]triazolo[1,5-a]pyridine | 0.153 mmol, 53.6 mg, 1 equiv | IC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)OC)=N1 | C13H10IN3O
reactant | (R)-1-(4-amino-1H-pyrazol-1-yl)propan-2-ol | 0.19 mmol, 27 mg, 1.2 equiv | NC=1C=NN(C1)C[C@@H](C)O | C6H11N3O
reactant | sodium tert-butoxide | 0.448 mmol, 43.1 mg, 2.94 equiv | CC(C)([O-])C.[Na+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.0263 mmol, 15.2 mg, 0.172 equiv | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0115 mmol, 10.5 mg, 0.0751 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (R)-1-(4-(8-(4-methoxyphenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino)-1H-pyrazol-1-yl)propan-2-ol | 42.4 mg, 73% yield | COC1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC=2C=NN(C2)C[C@@H](C)O | C19H20N6O2
